Name:  ___                     Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
Penicillins
 
Attending: ___
 
Chief Complaint:
Hemoperitoneum, new liver mass
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
Mr. ___ is a ___ with a history of HCV s/p treatment who 
presents as a transfer from ___ for 
hemoperitoneum and new 10 cm liver mass. 

The patient initially presented to ___ for 2 days 
of shortness of breath with exertion and right upper quadrant 
pain. He described that his symptoms occurred when walking up 
stairs and from his car to the front door of the hospital. CT PE 
at ___ demonstrated hemoperitoneum and a 10 cm 
liver mass, for which he was transferred to ___. 

At ___ a CT head and CT abdomen and pelvis were 
done which demonstrated no additional lesions, however 
redemonstrated the liver mass. At present the patient feels 
well, with no fevers, chills, chest pain, or abdominal pain.

Patient is on vacation from ___ and is visiting daughter.

In the ___, initial vitals:  
T 99  HR 80  BP 110/63  RR 17 O2 Sat 97% RA 

- Exam notable for:  Not documented
- Labs notable for:  Unremarkable
- Imaging notable for:  CD with patient

EKG sinus rhythm, abnormal R wave progression

- Pt given: Nothing
 
- Vitals prior to transfer:  
T 97.3  HR 75  BP 116/94  RR 16 O2 Sat 94% RA 

On the floor, patient has no abdominal pain or shortness of 
breath although does have mild discomfort in belly without 
significant localization. He does not feel dizzy or lightheaded. 
No chest pain or palpitations.

Reports prior history of hepatitis C. No prior liver problems.

 
Past Medical History:
Hypertension
Iron deficiency anemia
Gout
 
Social History:
___
Family History:
Noncontributory
 
Physical Exam:
ADMISSION PHYSICAL EXAM:
========================
VITALS: T 97.5 BP 152 / 72 HR 89 RR 16 O2 Sat  94 Ra 
___: Alert, oriented, no acute distress  
HEENT: Sclerae anicteric, MMM, oropharynx clear, EOMI, PERRL
CV: Regular rate and rhythm, normal S1 + S2, no murmurs
Lungs: Clear to auscultation bilaterally, no wheezes or crackles
Abdomen: Soft, non-tender, non-distended 
Ext: Warm, well perfused, 2+ pulses, no clubbing, cyanosis or 
edema  
Skin: Warm, dry, no rashes or bruising.
Back: No flank pain. 
Neuro: CNII-XII intact, able to ambulate, intact strength 
bilaterally

DISCHARGE PHYSICAL EXAM:
======================== 
VS: Temp 97.4F BP 151/67 HR 74 RR 18 98% on RA 
___: Alert and interactive. Sitting comfortably. No acute 
distress. 
HEENT: Sclerae anicteric, MMM 
CV: Regular rate and rhythm, prominent S2. I/VI systolic murmur 
over RUSB. No rubs or gallops. 
Lungs: Clear to auscultation bilaterally, no wheezes or crackles
Abdomen: Soft, non-tender, non-distended, normoactive BS. No 
flank/abdominal bruising or hematoma.  
Ext: Warm, well perfused, 2+ pulses, no ___ edema or erythema. 
Skin: Warm, dry, no rashes or bruising.
Neuro: Alert and interactive. CNII-XII grossly intact, able to 
ambulate, moves all extremities. 

 
Pertinent Results:
ADMISSION LABS:
===============
___ 02:00AM BLOOD WBC-8.2 RBC-2.60* Hgb-8.3* Hct-25.3* 
MCV-97 MCH-31.9 MCHC-32.8 RDW-14.0 RDWSD-49.9* Plt ___
___ 02:00AM BLOOD Neuts-70.6 Lymphs-17.9* Monos-9.9 
Eos-0.7* Baso-0.2 Im ___ AbsNeut-5.77 AbsLymp-1.47 
AbsMono-0.81* AbsEos-0.06 AbsBaso-0.02
___ 02:00AM BLOOD Glucose-113* UreaN-18 Creat-1.2 Na-141 
K-3.5 Cl-107 HCO3-22 AnGap-12
___ 09:46AM BLOOD ALT-19 AST-70* LD(LDH)-230 AlkPhos-59 
TotBili-0.9
___ 09:46AM BLOOD Albumin-3.9 Calcium-8.6 Phos-2.7 Mg-2.1

PERTINENT LABS/MICRO:
=====================
___ 09:46AM BLOOD HBsAg-NEG HBsAb-POS HBcAb-NEG
___ 09:46AM BLOOD AFP-10.4*
___ 09:46AM BLOOD HCV VL-PND
___ 02:42AM BLOOD Lactate-1.8

___ BCx x2: NGTD

DISCHARGE LABS:
===============
___ 10:15AM BLOOD WBC-7.5 RBC-2.83* Hgb-9.2* Hct-27.8* 
MCV-98 MCH-32.5* MCHC-33.1 RDW-14.0 RDWSD-49.9* Plt ___
___ 06:00AM BLOOD Glucose-98 UreaN-13 Creat-1.0 Na-141 
K-3.8 Cl-108 HCO3-25 AnGap-8*

PERTINENT IMAGING:
==================
OSH radiology:

CXR ___: Aneurysmal contour of ascending aorta. No
infiltrate or CHF. Slightly under expanded lungs

CT Angio PE ___ 
No evidence of PE
Mild posterior dependent atelectasis in lower lobes
4cm ascending and descending thoracic aorta without evidence of
rupture. Mild aortic atherosclerosis.
5mm indeterminate noncalcified left lower lobe lung nodule
Nonspecific bilateral mildly increased peripheral interstitial
markigs

Mild density ascites in visualized upper abdomen suggestive of
hemoperitoneum 10 x 7.5cm hepatic mass at dome of liver 
anteriorly.
9mm indeterminate round hypodense lesion in the liver just
posterior to larger mass.

CT HEad ___
No acute intracranial process

CT A/P without contrast ___
Nonspecific appearing large right lobe of liver mass again noted
with exophytic extension anteriorly beyond liver margin.
Associated small to moderate volume dense intraperitoneal fluid
suggestive of hemoperitoneum.
Mass may be primary liver lesion such as an adenoma or
hepatocellular carcinoma vs. metastasis.
Numerous additional small hepatic low density focus which are 
too
small to characterize by CT and may be cysts although mets 
cannot
be excluded
Cholelithiasis.

 
Brief Hospital Course:
Mr. ___ is a ___ y/o male with a history of HCV who presents as a 
transfer from ___ for hemoperitoneum and 
new 10 cm liver mass c/f primary vs metastatic liver malignancy. 
He was monitored with serial CBCs, which remained stable. 
Further work up was deferred per patient preference given 
clinical stability, primary care in ___, and lack of 
insurance within ___. 

ACUTE/ACTIVE PROBLEMS: 
======================
#Acute hemoperitoneum 
Presented to ___ with two days of dyspnea 
on exertion and RUQ abdominal pain. CT abd/pelvis done there 
showed hemoperitoneum and a 10 cm liver mass, prompting transfer 
to ___. There, he had a CT head and CT abd/pelvis, 
showing no new lesions though redemonstrated liver mass. Upon 
admission here, he remained HD stable. Hgb initially dropped 
from 10 at the OSH to 8.5 here, though possibly dilutional given 
rapid improvement back to ___ without interventions. His CBC, 
vitals and exam remained stable. He was discharged with plan to 
follow up with his PCP/liver specialist for further evaluation. 
Risks of deferring care until back in ___, including serious 
injury and death, were reviewed and understood prior to 
discharge. 

#Liver mass 
CT abd/pelvis at OSH showed a 10 x 7.5 cm hepatic mass at the 
dome of the liver anteriorly with exophytic extension anteriorly 
beyond the liver margin. He reported a history of hepatitis C 
over 2 decades ago for which he received treatment, but never 
had f/u imaging to screen for HCC. Based on his history of HCV 
and liver mass, there was concern for primary HCC, vs metastases 
or benign liver lesion. AFP 10.4, mildly elevated. He will need 
outpatient MRI to better characterize the lesion and likely 
biopsy. Additionally, he will need a colonoscopy, if not already 
done, given a strong family history of colon cancer. He should 
follow up with his PCP for further evaluation. 

#HCV infection 
History of HCV infection, reportedly treated previously. HCV Ab 
positive on admission here, VL pending at time of discharge. 

CHRONIC/STABLE PROBLEMS: 
========================
# Hypertension
On ramipril at home, initially held ___ concern for bleed. BP 
remained stable, at times up to 150s. Restarted at discharge. 

# Gout
- Continued home allopurinol

TRANSITIONAL ISSUES:
=====================
[]Needs primary care provider follow up within the week
[]Repeat CBC at PCP appointment, discharge ___ 9.2/27.8
[]Needs further work up of liver mass - referral to liver 
specialist, consideration of biopsy 
[]Ensure colonoscopy screening is up to date 
[]F/u HCV VL, pending at time of discharge

#CODE: Full presumed
#CONTACT: ___ (daughter) ___

 
Medications on Admission:
The Preadmission Medication list may be inaccurate and requires 
futher investigation.
1. Ramipril 10 mg PO DAILY 
2. Allopurinol ___ mg PO DAILY 
3. Calcium Magnesium (Ca carb-Ca gluc-Mg ox-Mg gluco) 500 mg 
calcium -250 mg oral DAILY 
4. Ranitidine 150 mg PO DAILY 
5. Ferrous Sulfate 150 mg PO DAILY 
6. Alendronate Sodium 70 mg PO QSUN 
7. Colchicine 0.6 mg PO PRN gout flare 

 
Discharge Medications:
1.  Alendronate Sodium 70 mg PO QSUN  
2.  Allopurinol ___ mg PO DAILY  
3.  Calcium Magnesium (Ca carb-Ca gluc-Mg ox-Mg gluco) 500 mg 
calcium -250 mg oral DAILY  
4.  Colchicine 0.6 mg PO PRN gout flare  
5.  Ferrous Sulfate 150 mg PO DAILY  
6.  Ramipril 10 mg PO DAILY  
7.  Ranitidine 150 mg PO DAILY  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
#Primary:
Acute hemoperitoneum 
Liver mass

#Secondary:
Prior HCV infection 
Hypertension 
Gout

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___,

It was a pleasure caring for you at ___ 
___!

Why you presented to the hospital:
- You were having shortness of breath and abdominal pain

What happened while you were here:
- Imaging showed a large mass in the liver and blood surrounding 
it 
- You were monitored to ensure you were not actively loosing 
blood
- Further work up was deferred based on your preferences 

What you should do once you return home: 
- You need to follow up urgently with your primary care provider 
and ___ liver specialist for further work up of this mass
- Please continue taking your medications as prescribed
- Seek urgent medical attention if you become symptomatic again 

Sincerely,
Your ___ Care Team 
 
Followup Instructions:
___